US07329680B2
4-{5-Chloro-1-[4-cyclopentyloxy-6-(3,4-dihydro-2H-quinolin-1-yl)-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid
Arylation of 4-(5-chloro-1H-indol-3-yl)-4-oxo-butyric acid 2-trimethylsilanyl-ethyl ester with 1-(4-chloro-6-cyclopentyloxy-[1,3,5]-triazin-2-yl)-1,2,3,4-tetrahydro-quinoline and subsequent hydrolysis as outlined previously yielded the titled compound. Rf 0.30 (5% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 8.97 (1H, s, ArH), 8.55 (1H, d, J=9 Hz, ArH), 8.18 (1H, d, J=2 Hz, ArH), 7.81 (1H, d, J=8 Hz, ArH), 7.35-7.10 (4H, m, ArH), 5.44 (1H, m, CH), 4.08 (2H, t, J=6 Hz, CH2), 3.22 (2H, t, J=6 Hz, CH2), 2.78 (2H, t, J=6 Hz, CH2), 2.58 (2H, t, J=6 Hz, CH2), 2.01-1.61 (10H, m, CH2); ESI-LCMS e/z calculated for C29H28ClN5O4 545.183, found 546 (M+H)+, 568 (M+Na)+.

reactant | 4-(5-chloro-1H-indol-3-yl)-4-oxo-butyric acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(CCC(=O)C1=CNC2=CC=C(C=C12)Cl)=O)(C)C | C17H22ClNO3Si
reactant | 1-(4-chloro-6-cyclopentyloxy-[1,3,5]-triazin-2-yl)-1,2,3,4-tetrahydro-quinoline | ClC1=NC(=NC(=N1)OC1CCCC1)N1CCCC2=CC=CC=C12 | C17H19ClN4O
product | 4-{5-Chloro-1-[4-cyclopentyloxy-6-(3,4-dihydro-2H-quinolin-1-yl)-[1,3,5]-triazin-2-yl]-1H-indol-3-yl}-4-oxo-butyric acid | ClC=1C=C2C(=CN(C2=CC1)C1=NC(=NC(=N1)OC1CCCC1)N1CCCC2=CC=CC=C12)C(CCC(=O)O)=O | C29H28ClN5O4
